US04423213
A solution of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.5 g) in trifluoroacetic acid (7.5 ml) and anisole (2.5 ml) was stirred at ambient temperature for 30 minutes. The reaction mixture was poured into diisopropyl ether, and the precipitates were collected by filtration, followed by dissolving them in a saturated aqueous sodium bicarbonate (50 ml). The aqueous solution was washed with ethyl acetate, adjusted to pH 2.0 with 10% hydrochloric acid and then extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.55 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OCC(Cl)(Cl)Cl | C31H26Cl3N5O7S2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 7.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.55 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)OCC(Cl)(Cl)Cl | C18H16Cl3N5O7S2
